US04942143
3-Methyl-7-propylxanthine and 6-(4-chlorophenoxy)hexyl bromide were reacted and treated in substantially the same manner as described in Example 9(a) to give 1-[6-(4-chlorophenoxy)hexyl]-3-methyl-7-propylxanthine (51%).

reactant | 3-Methyl-7-propylxanthine | CN1C(NC(C=2N(C=NC12)CCC)=O)=O | C9H12N4O2
reactant | 6-(4-chlorophenoxy)hexyl bromide | ClC1=CC=C(OCCCCCCBr)C=C1 | C12H16BrClO
product | 1-[6-(4-chlorophenoxy)hexyl]-3-methyl-7-propylxanthine | 51% | ClC1=CC=C(OCCCCCCN2C(=O)N(C=3N=CN(C3C2=O)CCC)C)C=C1 | C21H27ClN4O3
